US05232945
B. 5-Methyl-2-phenyl-4-(2-propynyl)oxazole
A solution of 4-benzoylamino-1-hexyn-5-one (30 g, 0.14 mol) in trifluoroacetic anhydride (100 ml) and trifluoroacetic acid (200 ml) was heated to 35°-40° C. for 6 hours. The solution was concentrated and the residue taken up in ethyl acetate (400 ml). To this solution was added saturated sodium bicarbonate solution (400 ml) followed by solid sodium bicarbonate until the water layer became neutral. The layers were separated, the organic layer was washed with brine, dried over magnesium sulfate and concentrated to give a brown oil (28 g) which was used as such.

reactant | 4-benzoylamino-1-hexyn-5-one | 0.14 mol, 30 g | C(C1=CC=CC=C1)(=O)NC(CC#C)C(C)=O | C13H13NO2
solvent | trifluoroacetic anhydride | 100 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Methyl-2-phenyl-4-(2-propynyl)oxazole | 28 g | CC1=C(N=C(O1)C1=CC=CC=C1)CC#C | C13H11NO
